US04632918
Benzhydryl 3-chloromethyl-7β-phenylacetamido-3-cephem-4-carboxylate
24 ml (0.3 mol) of pyridine, 400 μl of dimethylformamide and 21.6 ml (0.3 mol) of thionyl chloride are added, while cooling in ice, to a solution of 103 g (0.2 mol) of benzhydryl 3-hydroxymethyl-7β-phenylacetamido-3-cephem-4-carboxylate (prepared according to, for example, Helv. Chim. Acta 57, 2044 (1974)) in 3.5 l of absolute tetrahydrofuran. After 10 minutes, the mixture is evaporated in a rotary evaporator, the residue is taken up in 2 l of ethyl acetate, and the solution is extracted by shaking twice with sodium bicarbonate solution and once with water. The organic phase is stirred with 50 g each of kieselguhr and active charcoal and filtered with suction through a sintered glass funnel containing silica gel. It is then dried over magnesium sulphate, evaporated, and residue is taken up in 200 ml of methylene chloride and the product is precipitated with petroleum ether.

reactant | pyridine | 0.3 mol, 24 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylformamide | 400 μl | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.3 mol, 21.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzhydryl 3-hydroxymethyl-7β-phenylacetamido-3-cephem-4-carboxylate | 0.2 mol, 103 g | OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C29H26N2O5S
solvent | tetrahydrofuran | 3.5 l | O1CCCC1 | C4H8O
product | Benzhydryl 3-chloromethyl-7β-phenylacetamido-3-cephem-4-carboxylate | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C29H25ClN2O4S
